US05116837
Step b: Methyl 4-oxo-4-(3-chloro-2-dimethylaminomethylene-2H-1,4-benzoxazin-7-yl) -3-methylbutyrate
Methyl 4-oxo-4-(3,4-dihydro-3-oxo-2H-1,4-benzoxazin-7-yl)-3-methylbutyrate (10 g) was added to chloroform (100 ml) containing POCl3 (3.5 ml) and dimethylformamide (2.8 ml) at 0° C. The mixture was heated at reflux for 3 hours then stirred at room temperature overnight. The solvent was removed at reduced pressure, the residue was basified with 10% NaOH solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated to dryness. The residue was chromatographed on silica gel and eluted with methylene chloride. The fractions containing the Product were evaporated to dryness and the residue used without further purification.

reactant | Methyl 4-oxo-4-(3,4-dihydro-3-oxo-2H-1,4-benzoxazin-7-yl)-3-methylbutyrate | 10 g | O=C(C(CC(=O)OC)C)C1=CC2=C(NC(CO2)=O)C=C1 | C14H15NO5
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | POCl3 | 3.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 2.8 ml | CN(C=O)C | C3H7NO
product | Methyl 4-oxo-4-(3-chloro-2-dimethylaminomethylene-2H-1,4-benzoxazin-7-yl) -3-methylbutyrate | O=C(C(CC(=O)OC)C)C1=CC2=C(N=C(C(O2)=CN(C)C)Cl)C=C1 | C17H19ClN2O4
